US07199147B2
A solution of 3-aminocyclohexanecarboxylic acid (1.005 g, 7.02 mmol) in a mixture of a 2N-aqueous sodium hydroxide solution (14 ml, 28 mmol) and 1,4-dioxane (15 ml) was cooled on a water bath, and di-tert-butyl dicarbonate (3.25 ml, 14.1 mmol) was added thereto and stirred overnight. The resulting solution was diluted with water and washed with diethyl ether, and the aqueous layer was adjusted to pH 6 to 7 with 1N-hydrochloric acid and then to pH 2 to 3 with a 5%-aqueous potassium hydrogensulfate solution. The aqueous layer was extracted three times with ethyl acetate, and the extract solution was washed with a saturated aqueous sodium chloride solution and dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure to obtain 3-[(tert-butoxycarbonyl)amino]cyclohexanecarboxylic acid (1.587 g, 93%).

reactant | 3-aminocyclohexanecarboxylic acid | 7.02 mmol, 1.005 g | NC1CC(CCC1)C(=O)O | C7H13NO2
reactant | sodium hydroxide | 28 mmol, 14 ml | [OH-].[Na+]
reactant | 1,4-dioxane | 15 ml | O1CCOCC1 | C4H8O2
reactant | di-tert-butyl dicarbonate | 14.1 mmol, 3.25 ml | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | water | O | H2O
product | 3-[(tert-butoxycarbonyl)amino]cyclohexanecarboxylic acid | 1.587 g, 93% | C(C)(C)(C)OC(=O)NC1CC(CCC1)C(=O)O | C12H21NO4
